US06362310B1
2,7-Dichloro-9,9-di(3-methyl-1-butyl)fluorene
Following the procedure of Example 1,2,7-dichloro-9,9-di(3-methyl-1-butyl)fluorene is prepared from 2,7-dichlorofluorene and 1-bromo-3-methylbutane as colorless crystals (recrystallized from pentane) in 90 percent yield, melting point 116° C. to 117.5° C. The spectral data is consistent with the title structure and HPLC analysis shows the purity as 99 percent and greater.

reactant | 2,7-dichlorofluorene | ClC1=CC=2CC3=CC(=CC=C3C2C=C1)Cl | C13H8Cl2
reactant | 1-bromo-3-methylbutane | BrCCC(C)C | C5H11Br
solvent | pentane | CCCCC | C5H12
product | 2,7-Dichloro-9,9-di(3-methyl-1-butyl)fluorene | 90 percent yield | ClC1=CC=2C(C3=CC(=CC=C3C2C=C1)Cl)(CCC(C)C)CCC(C)C | C23H28Cl2
